US07514422B2
N-Trifluoroacetyl-7-methoxy-4-methyl-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine
A solution of N-allyl,N-trifluoroacetyl-1-(2-iodo-5-methoxyphenyl)-2-propylamine (4.45 g, 10.8 mmol) in dimethylformamide (120 mL) was treated with KOAc (3.17 g, 32.3 mmol), n-Bu4NBr (3.47 g, 10.8 mmol), PPh3 (0.283 g, 1.08 mmol), Pd(OAc)2 (0.242 g, 1.08 mmol) and stirred overnight at 80 C. The product mixture was cooled to 20 C, filtered, diluted with water (200 mL), extracted with ether (3×200 mL), the combined organic phases washed with water (100 mL), brine (100 mL), dried with Na2SO4 and concentrated. Flash chromatography (10% EtOAc in hexane, silica) resulted in 1.39 g of a yellow oil.

reactant | N-allyl,N-trifluoroacetyl-1-(2-iodo-5-methoxyphenyl)-2-propylamine | 10.8 mmol, 4.45 g | C(C=C)N(C(C(F)(F)F)=O)C(CC1=C(C=CC(=C1)OC)I)C | C15H17F3INO2
reactant | KOAc | 32.3 mmol, 3.17 g | CC(=O)[O-].[K+]
reactant | PPh3 | 1.08 mmol, 0.283 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
catalyst | n-Bu4NBr | 10.8 mmol, 3.47 g | [N+](CCCC)(CCCC)(CCCC)CCCC.[Br-]
catalyst | Pd(OAc)2 | 1.08 mmol, 0.242 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | N-Trifluoroacetyl-7-methoxy-4-methyl-1-methylene-2,3,4,5-tetrahydro-1H-3-benzazepine | 1.39 g | FC(C(=O)N1C(CC2=C(C(C1)=C)C=CC(=C2)OC)C)(F)F | C15H16F3NO2
